US04772721
(1) (-)-(R)-5,6,7,8-Tetrahydro-7-methoxycarbonyl-5-oxoimidazo[1,5-c]pyrimidine
1.7 g (10 mmol) of D-histidine methyl ester and 1.58 g (20 mmol, 1.61 ml) of distilled pyridine are dissolved in 50 ml of absolute chloroform, cooled to -40° to -50° C. with methanol/dry ice, and, at this temperature, a weak stream of HCl-free phosgene is introduced for 15 minutes. The mixture is stirred for 15 minutes in the cold state and poured into 200 ml of cold ether/hexane (2:1). A white, deliquescent precipitate is obtained which is quickly suctioned off and washed with ether. The precipitate is taken up in 100 ml of 1N Na2CO3 solution and extracted six times with chloroform. After drying of the organic phase over sodium sulfate, the solvent is removed by evaporation; any present traces of pyridine are removed under a high vacuum. The compound is crystallized from methanol.

reactant | D-histidine methyl ester | 10 mmol, 1.7 g | COC([C@H](N)CC1=CNC=N1)=O | C7H11N3O2
reactant | pyridine | 20 mmol, 1.61 ml, 1.58 g | N1=CC=CC=C1 | C5H5N
reactant | methanol dry ice | CO.C(=O)=O
reactant | HCl | Cl | ClH
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ether hexane | 200 ml | CCOCC.CCCCCC
product | (-)-(R)-5,6,7,8-Tetrahydro-7-methoxycarbonyl-5-oxoimidazo[1,5-c]pyrimidine | COC(=O)[C@H]1CC=2N(C(N1)=O)C=NC2 | C8H9N3O3
